US07842685B2
(2S,4S)-tert-butyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (0.084 g, 0.154 mmol) in 2 mL DCM was added trifluoroacetic acid (0.200 mL) After 3 d, the reaction mixture was concentrated, dissolved in DMSO, filtered, and purified by RPHPLC, gradient, 10-100% ACN/TFA in H2O/TFA. Product-containing fractions were concentrated in vacuo to give ((2S,4S)-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)pyrrolidin-2-yl)methanol. MS (ESI) m/z: Calculated: 445.2; Observed: 445.8 (M++1).

reactant | (2S,4S)-tert-butyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 0.154 mmol, 0.084 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C31H32FN3O3S
reactant | trifluoroacetic acid | 0.200 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | ((2S,4S)-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)pyrrolidin-2-yl)methanol | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)[C@@H]1C[C@H](NC1)CO | C26H24FN3OS
